US07417049B2
(b) (2′R)-5′-(2-Fluorobenzofuran-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine]
Prepared by a method analogous to that described for the preparation of Example 4 from (2′R)-5′-bromospiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] and 2-fluoro-3-triethylstannylbenzofuran. The title compound was obtained as a colourless solid; m/e 351 (MH+).

reactant | (2′R)-5′-bromospiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | BrC=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C13H15BrN2O
reactant | 2-fluoro-3-triethylstannylbenzofuran | FC=1OC2=C(C1[Sn](CC)(CC)CC)C=CC=C2
product | (2′R)-5′-(2-Fluorobenzofuran-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | FC=1OC2=C(C1C=1C=C3C(=NC1)O[C@@]1(C3)CN3CCC1CC3)C=CC=C2 | C21H19FN2O2
